US08133889B2
1-(4-Morpholin-4-ylmethyl-1H-pyrrol-2-yl)-propan-1-one
To a solution of morpholine (89.3 mmoles) in acetic acid (50 ml) at 0° C. there are added 1-(1H-pyrrol-2-yl)-propan-1-one (81.2 mmoles) and formaldehyde (89.3 mmoles) 37% in water. The reaction mixture is stirred overnight at ambient temperature. After concentration of the mixture, the solution is brought to alkaline pH (10-12) using 20% aqueous NaOH solution at 0° C. and is then extracted with DCM. The organic phase is washed with water and with saturated aqueous NaCl solution, dried over sodium sulphate, filtered and evaporated to dryness and purified by flash chromatography on silica gel (SiO2; gradient 100% AcOEt to AcOEt/MeOH 9/1) to yield the title product.

reactant | morpholine | 89.3 mmoles | N1CCOCC1 | C4H9NO
reactant | 1-(1H-pyrrol-2-yl)-propan-1-one | 81.2 mmoles | N1C(=CC=C1)C(CC)=O | C7H9NO
reactant | formaldehyde | 89.3 mmoles | C=O | CH2O
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1-(4-Morpholin-4-ylmethyl-1H-pyrrol-2-yl)-propan-1-one | N1(CCOCC1)CC=1C=C(NC1)C(CC)=O | C12H18N2O2
